US07273865B2
To a stirred solution of 159 g (4.88 mmol) 3-iodo-5-methoxy-2-phenyl-pyridin-4-ylamine in 30 ml acetone was added dropwise 0.98 ml (7.31 mmol) benzoyl isothiocyanate at room temperature. The reaction mixture then heated at reflux for 5 h before being cooled to room temperature concentrated in vacuo. Flash chromatography (ethyl acetate/heptane) afforded 1.61 g (67%) 1-benzoyl-3-(3-iodo-5-methoxy-2-phenyl-pyridin-4-yl)-thiourea as a yellow crystalline solid. ES-MS m/e (%): 490 (M+H+, 100).

reactant | 3-iodo-5-methoxy-2-phenyl-pyridin-4-ylamine | 4.88 mmol, 159 g | IC=1C(=NC=C(C1N)OC)C1=CC=CC=C1 | C12H11IN2O
reactant | benzoyl isothiocyanate | 7.31 mmol, 0.98 ml | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | 1-benzoyl-3-(3-iodo-5-methoxy-2-phenyl-pyridin-4-yl)-thiourea | 1.61 g, 67% | C(C1=CC=CC=C1)(=O)NC(=S)NC1=C(C(=NC=C1OC)C1=CC=CC=C1)I | C20H16IN3O2S
